US08455477B2
To a solution of azetidine-3-carboxylic acid (18. g, 0.18 mol), NaOH (21.4 g, 0.534 mol) in 180 mL of tetragydrofuran and 334 mL of water was added di-tert-butyl-dicarbonate (46.6 g, 0.214 mol), and the mixture was stirred overnight at room temperature. The mixture was diluted with 250 mL of ethyl acetate, the biphasic solution obtained was separated, and the basic aqueous layer was acidified to pH=2 by slow addition of concentrated HCl. The aqueous layer was extracted with dichloromethane (3×250 mL). The combined organic layers were dried over magnesium sulfate, filtered and concentrated to afford 1-(tert-butoxycarbonyl)azetidine-3-carboxylic acid.

reactant | azetidine-3-carboxylic acid | 0.18 mol | N1CC(C1)C(=O)O | C4H7NO2
reactant | NaOH | 0.534 mol, 21.4 g | [OH-].[Na+]
reactant | water | 334 mL | O | H2O
reactant | di-tert-butyl-dicarbonate | 0.214 mol, 46.6 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | 1-(tert-butoxycarbonyl)azetidine-3-carboxylic acid | C(C)(C)(C)OC(=O)N1CC(C1)C(=O)O | C9H15NO4
